datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CC)C>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CC)[O-:10])C 21=20;20,10=10"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21][H])([S]CC)[S][H].[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([S]CC)[S][H] 21=20;20,10=10"
"C1CC[O+:21]=[CH:20]C1.[Cl-:10]>>C1CC[O:21][CH:20](C1)[Cl:10] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)CCCCCC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)C)CC)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])C>>[H]C1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21]CC 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])C([H])C(O)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(O)C([H])C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]C7=CC=CC=C7 21=20;20,10=10"
"[NH:10]([H])C(C1=C(C([CH:20](C)=[O:21])O)C=CC=C1)C>>[O-:21][CH:20]2(C)C(C3=C(C([NH+:10]2([H]))C)C=CC=C3)O 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C([H])[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCC)C)CC>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCC)C)CC 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH:10][H].CC[NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[O][H].[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[O][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C)C(C)[NH]1 10=20;20,21=21"
"[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)[H])[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)[H])C1=CC=CC=C1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)CCCCCC)[H].[O-:21]CC>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)CCCCCC)[H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[S]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C)[H].[O-:21]CC>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)[H])[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)[H])CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)[O:10]C(CCC)C(C)C1O>>[O-:10]C(CCC)C(C)C([C:20](OCC)=[O:21])O 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C([H])[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
